US07091199B1
Preparation of 2-[3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl]-1,2,3,4-tetrahydroisoquinoline (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, 1,2,3,4-tetrahydroisoquinoline and acetonitrile essentially as described above in example 48 except that the crude product is dissolve in DCM and purified by using a step gradient of 50% ethyl acetate in heptane, to 100% ethyl acetate. Purity by LC/MS (APCI)=96%, [M+H]+=391.

reactant | 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
reactant | acetonitrile | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-[3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl]-1,2,3,4-tetrahydroisoquinoline | O1N=C(C2=C1C=CS2)C=2C=C(OCCCN1CC3=CC=CC=C3CC1)C=CC2 | C23H22N2O2S
